US08133882B2
To a 90 ml DMF solution of 15.0 g of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid was added 9.9 g of 1,1′-carbonyldiimidazole, followed by stirring at 80° C. for 24 hours. After cooling, the reaction mixture was poured into ice water, and the solid precipitated was collected by filtration. Next, 1.9 g of sodium borohydride was added at 0° C. to a mixed solution of 200 ml THF and 100 ml water of the resulting solid, followed by stirring at the same temperature for 2 hours. Water was added, the solvent was evaporated under a reduced pressure, and the insoluble materials were collected by filtration to obtain 13.8 g of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-(hydroxymethyl)quinolin-4(1H)-one.

reactant | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 15.0 g | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)C(=O)O)=O)F | C21H25FN2O3
reactant | 1,1′-carbonyldiimidazole | 9.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
product | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-(hydroxymethyl)quinolin-4(1H)-one | 13.8 g | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)CO)=O)F | C21H27FN2O2
